US07312241B2
(3,5-Dimethoxyphenyl)-(2-methoxyphenyl)methanone (1.22 g, 4.48 mmol), cyanomethylphosphonic acid diethyl ester (1.41 ml, 8.96 mmol) in anhydrous THF (30 ml), and lithium bis (trimethylsilyl)amide (1.0 M solution in THF, 9.00 ml, 9.00 mmol) were treated in the same manner as described above for the synthesis of 3-(2,3-dihydrobenzo[1,4]dioxin-6-yl)-3-(3,5-dimethoxyphenyl)acrylonitrile. The crude material was purified via flash column chromatography (10% EtOAc in hexane gradient to 30% EtOAc in hexane in about 30 min.) to give 3-(3,5-Dimethoxy-phenyl)-3-(2-methoxy-phenyl)-acrylonitrile as an off-white solid (0.93 g, 70%); mp, 82-84° C.: 1HNMR (CDCl3) 7.39-6.90 (m, 8H, Ar), 6.57 (d, J=2 Hz, 2H, Ar), 6.51-6.48 (m, 2H, Ar), 6.42 (d, J=2 Hz, 2H, Ar), 5.89 (s, 2H, double bond protons of the two isomers), 3.78 (s, 6H, 2OCH3), 3.75 (s, 6H, 2OCH3), 3.74 (s, 6H, 2OCH3); 13C NMR (CDCl3) δ 160.9, 160.7, 160.2, 159.9, 157.7, 140.6, 140.3, 131.6, 131.2, 130.9, 128.0, 126.2, 120.9, 120.7, 118.0, 117.6, 111.8, 107.1, 105.8, 101.9, 98.0, 97.3, 55.8, 55.6, 55.6; Anal. Calcd. For C18H17NO3: C, 73.20; H, 5.80; N, 4.74. Found: C, 73.08; H, 5.85; N, 4.78.

reactant | (3,5-Dimethoxyphenyl)-(2-methoxyphenyl)methanone | 4.48 mmol, 1.22 g | COC=1C=C(C=C(C1)OC)C(=O)C1=C(C=CC=C1)OC | C16H16O4
reactant | cyanomethylphosphonic acid diethyl ester | 8.96 mmol, 1.41 ml | C(C)OP(OCC)(=O)CC#N | C6H12NO3P
reactant | lithium bis (trimethylsilyl)amide | 9.00 mmol, 1.0 M, 9.00 ml | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | 3-(2,3-dihydrobenzo[1,4]dioxin-6-yl)-3-(3,5-dimethoxyphenyl)acrylonitrile | O1CCOC2=C1C=CC(=C2)C(=CC#N)C2=CC(=CC(=C2)OC)OC | C19H17NO4
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | 3-(3,5-Dimethoxy-phenyl)-3-(2-methoxy-phenyl)-acrylonitrile | 0.93 g, 70% | COC=1C=C(C=C(C1)OC)C(=CC#N)C1=C(C=CC=C1)OC | C18H17NO3
